US06759420B1
e) 2-(3-Bromo-phenyl)-3-(4-carbamimidoyl-phenyl)-N-{[(1-carbamimidoyl-piperidin-4-ylmethyl)-carbamoyl]-(S)-cyclohexyl-methyl}-propionamide hydrochloric acid salt
To 2-(3-bromo-phenyl)-3-(4-carbamimidoyl-phenyl)-propionic acid hydrochloride (188 mg, 0.49 mmol) in dimethylformamide (30 ml) was added TOTU (164 mg, 0.5 mmol) and N-ethylmorpholine (127 μl, 1 mmol) at 0° C. The mixture was stirred for 30 min at 0° C., 2-amino-N-(1-carbamimidoyl-piperidin-4-ylmethyl)-2-(S)-cyclohexyl-acetamide hydrochloric acid salt (180 mg, 0.49 mmol) was added and the mixture was then allowed to warm to room temperature. After evaporation, the residue was purified by chromotography on Sephadex LH20 employing n-butanol (17): glacial acetic acid (1): water (2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water and hydrochloric acid and lyophilized. Yield: 82 mg of the more polar diastereomer and 71 mg of the less polar diastereomer, MS (FAB) m/z: 624 (M+H)+.

reactant | 2-(3-bromo-phenyl)-3-(4-carbamimidoyl-phenyl)-propionic acid hydrochloride | 0.49 mmol, 188 mg | Cl.BrC=1C=C(C=CC1)C(C(=O)O)CC1=CC=C(C=C1)C(N)=N
reactant | TOTU | 0.5 mmol, 164 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | N-ethylmorpholine | 1 mmol, 127 μl | C(C)N1CCOCC1 | C6H13NO
reactant | 2-amino-N-(1-carbamimidoyl-piperidin-4-ylmethyl)-2-(S)-cyclohexyl-acetamide hydrochloric acid salt | 0.49 mmol, 180 mg | Cl.N[C@H](C(=O)NCC1CCN(CC1)C(N)=N)C1CCCCC1
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(3-Bromo-phenyl)-3-(4-carbamimidoyl-phenyl)-N-{[(1-carbamimidoyl-piperidin-4-ylmethyl)-carbamoyl]-(S)-cyclohexyl-methyl}-propionamide hydrochloric acid salt | Cl.BrC=1C=C(C=CC1)C(C(=O)N[C@@H](C1CCCCC1)C(NCC1CCN(CC1)C(N)=N)=O)CC1=CC=C(C=C1)C(N)=N | InChI=1S/C31H42BrN7O2.ClH/c32-25-8-4-7-24(18-25)26(17-20-9-11-23(12-10-20)28(33)34)29(40)38-27(22-5-2-1-3-6-22)30(41)37-19-21-13-15-39(16-14-21)31(35)36;/h4,7-12,18,21-22,26-27H,1-3,5-6,13-17,19H2,(H3,33,34)(H3,35,36)(H,37,41)(H,38,40);1H/t26?,27-;/m0./s1
